US09422271B2
To the solution of N-tert-butyl-5-(5-chloro-4-(methylthio)pyrimidin-2-yl)furan-2-sulfonamide (150 mg, 0.42 mmol, 1.0 equiv.) in CH2Cl2 (3 mL) was added m-CPBA (124 mg, 0.54 mmol, 1.3 eq., 75% content) at 0° C. The reaction mixture was stirred for 30 minutes and then concentrated to produce N-tert-butyl-5-(5-chloro-4-(methyl sulfinyl)pyrimidin-2-yl)furan-2-sulfonamide. The residue was directly used for the next step. LC-MS (m/z)=378.0 [M+H]+.

reactant | N-tert-butyl-5-(5-chloro-4-(methylthio)pyrimidin-2-yl)furan-2-sulfonamide | 0.42 mmol, 150 mg, 1.0 equiv. | C(C)(C)(C)NS(=O)(=O)C=1OC(=CC1)C1=NC=C(C(=N1)SC)Cl | C13H16ClN3O3S2
reactant | m-CPBA | 0.54 mmol, 124 mg, 1.3 eq. | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | N-tert-butyl-5-(5-chloro-4-(methyl sulfinyl)pyrimidin-2-yl)furan-2-sulfonamide | C(C)(C)(C)NS(=O)(=O)C=1OC(=CC1)C1=NC=C(C(=N1)S(=O)C)Cl | C13H16ClN3O4S2
